### PR TITLE
[Merged by Bors] - feat(GroupTheory/GroupAction): `MulDistribMulAction` of G⧸H on fixedPoints H A

### PR DESCRIPTION
**Pull request by bwangpj**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/GroupAction/OfQuotient.lean [hunk 1]
```diff
@@ -41,3 +41,32 @@ lemma quotient_out_smul_fixedPoints (g : G ⧸ H) (a : fixedPoints H A) :
...
+  smul_one _ := by
+    ext; rw [← quotient_out_smul_fixedPoints]
+    simp [-quotient_out_smul_fixedPoints]
+
+open scoped FixedPoints
+
+variable {α : Type*} [Group α] [MulDistribMulAction G α]
+
+instance : MulDistribMulAction (G ⧸ H) (α ^* H) :=
+  instQuotientSubgroupSubtypeMemSubmonoidSubmonoid
```
Comment (tb65536) [inline Mathlib/GroupTheory/GroupAction/OfQuotient.lean]: This avoids having to reference the autogenerated name:
```suggestion
  inferInstanceAs (MulDistribMulAction (G ⧸ H) (FixedPoints.submonoid H α))
```

File: Mathlib/GroupTheory/GroupAction/OfQuotient.lean [hunk 2]
```diff
@@ -41,3 +41,32 @@ lemma quotient_out_smul_fixedPoints (g : G ⧸ H) (a : fixedPoints H A) :
...
+  __ := instQuotientSubgroupElemFixedPointsSubtypeMem
+  smul_mul _ _ _ := by
+    ext
+    repeat
+      rw [← quotient_out_smul_fixedPoints]
+    simp [-quotient_out_smul_fixedPoints]
+    rfl
+  smul_one _ := by
+    ext; rw [← quotient_out_smul_fixedPoints]
+    simp [-quotient_out_smul_fixedPoints]
```
Comment (tb65536) [inline Mathlib/GroupTheory/GroupAction/OfQuotient.lean]:
```suggestion
  smul_mul g a b := g.induction_on fun g ↦ Subtype.ext (smul_mul g a.1 b.1)
  smul_one g := g.induction_on fun g ↦ Subtype.ext (smul_one g)
```

**Review by tb65536 — APPROVED** [review]
maintainer merge
